US05972975
Triphenylphosphine (2.24 g, 8.50 mmol) was added in four portions over 10 minutes to an ice cooled mixture of (S)-1-(2-hydroxy-1-methylethyl)-2,5-dimethylpyrrole (1.0 g, 6.54 mmol) and carbon tetrabromide (3.03 g, 9.15 mmol) in 50 mL of acetonitrile. The mixture was stirred at 0° C. for 1.5 h, room temperature for 18 h, and 50° C. for 6 h. The solvent was removed in vacuo. The residue was purified by flash column chromatography on 70 g of silica gel, eluting with 1 L of 15% dichloromethane in hexane to give 1.22 g (85% yield) of (S)-1-(2-bromo-1-methylethyl)-2,5-dimethylpyrrole as a yellow liquid.

reactant | Triphenylphosphine | 8.50 mmol, 2.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (S)-1-(2-hydroxy-1-methylethyl)-2,5-dimethylpyrrole | 6.54 mmol, 1.0 g | OC[C@H](C)N1C(=CC=C1C)C | C9H15NO
reactant | carbon tetrabromide | 9.15 mmol, 3.03 g | C(Br)(Br)(Br)Br | CBr4
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | (S)-1-(2-bromo-1-methylethyl)-2,5-dimethylpyrrole | 1.22 g, 85% yield | BrC[C@H](C)N1C(=CC=C1C)C | C9H14BrN
